US08557922B2
43.20 g (0.081 Mol) of 6-[((2E)-{4[(ethoxycarbonyl)oxy]phenyl}prop-2-enoyl)oxy]hexyl 3,5-dinitrobenzoate are dissolved in 66 ml (0.815 Mol) of pyridine and 400 ml of acetone at room temperature. 61 ml (0.815 Mol) of ammonium hydroxide solution 25% are added dropwise to the solution at room temperature. After 12h reaction, the mixture is thrown on water and acidified by the addition of HCl 25% (up to pH=3-4). A paste is obtained which is filtrated and dissolved in ethyl acetate and extracted with water. The organic phase is dried with sodium sulfate, filtrated, concentrated by rotary evaporation. Filtration of the residue over silica gel with tert-Butyl methyl ether as eluant and crystallization of the residue in 200 ml of ethyl acetate and 1200 ml of hexane at 0° C. give 15.84 g of 6-[((2E)-{4-hydroxyphenyl}prop-2-enoyl)oxy]hexyl 3,5-dinitrobenzoate as yellow crystals.

reactant | 6-[((2E)-{4[(ethoxycarbonyl)oxy]phenyl}prop-2-enoyl)oxy]hexyl 3,5-dinitrobenzoate | 0.081 Mol, 43.20 g | [N+](=O)([O-])C=1C=C(C(=O)OCCCCCCOC(\C=C\C2=CC=C(C=C2)OC(=O)OCC)=O)C=C(C1)[N+](=O)[O-] | C25H26N2O11
reactant | pyridine | 0.815 Mol, 66 ml | N1=CC=CC=C1 | C5H5N
reactant | ammonium hydroxide | 0.815 Mol, 61 ml | [OH-].[NH4+]
reactant | HCl | Cl | ClH
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | 6-[((2E)-{4-hydroxyphenyl}prop-2-enoyl)oxy]hexyl 3,5-dinitrobenzoate | 15.84 g | [N+](=O)([O-])C=1C=C(C(=O)OCCCCCCOC(\C=C\C2=CC=C(C=C2)O)=O)C=C(C1)[N+](=O)[O-] | C22H22N2O9
